US05864039
4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride (1.5 g) as starting compound, potassium carbonate (2.8 g) and 5-benzyloxypentyl bromide (2.08 g) were reacted and treated in the same manner as in Example 168 to give 0.82 g of 4-amino-N-((1-(5-benzyloxypentyl)piperidin-4-yl)methyl)-5-chloro-2-methoxybenzamide.

reactant | 4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | 1.5 g | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | potassium carbonate | 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-benzyloxypentyl bromide | 2.08 g | C(C1=CC=CC=C1)OCCCCCBr | C12H17BrO
product | 4-amino-N-((1-(5-benzyloxypentyl)piperidin-4-yl)methyl)-5-chloro-2-methoxybenzamide | 0.82 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCOCC2=CC=CC=C2)C=C1Cl)OC | C26H36ClN3O3
